US07635699B2
Intermediate 2, Step 2. 4-(2-methoxyphenyl)-1H-imidazol-2-amine
To a stirred solution of 2-(2-methoxyphenyl)imidazo[1,2-α]pyrimidine (1.24 g, 5.5 mmol) in EtOH (8 mL) was added NH2NH2.H2O (0.3 mL, 6.1 mmol). After heating to 75° C. for 24 h, the reaction was concentrated under reduced pressure. The residue was suspended in Et2O and filtered to collect 4-(2-methoxyphenyl)-1H-imidazol-2-amine (1 g, 96%) as a light yellow solid.

reactant | 2-(2-methoxyphenyl)imidazo[1,2-α]pyrimidine | 5.5 mmol, 1.24 g | COC1=C(C=CC=C1)C=1N=C2N(C=CC=N2)C1 | C13H11N3O
reactant | NH2NH2.H2O | 6.1 mmol, 0.3 mL | NN.O
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-(2-methoxyphenyl)-1H-imidazol-2-amine | COC1=C(C=CC=C1)C=1N=C(NC1)N | C10H11N3O
